US06500863B1
6-chloro-2-hydroxy-3-nitro-1-(4-thiomorpholinylsufonyl)benzene
Following the general hydrolysis procedure outlined in example 15, 2,6-dichloro-3-nitro-1-(4-thiomorpholinylsufonyl)benzene (1.04 g, 2.91 mmol), 60% NaH (349 mg, 8.73 mmol) and water (63 μL, 3.50 mmol) were reacted to form the desired product (330 mg, 33%). EI-MS (m/z) 336.89, 338.93 (M−).

reactant | 2,6-dichloro-3-nitro-1-(4-thiomorpholinylsufonyl)benzene | 2.91 mmol, 1.04 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)N1CCSCC1 | C10H10Cl2N2O4S2
reactant | NaH | 8.73 mmol, 349 mg | [H-].[Na+]
reactant | water | 3.50 mmol, 63 μL | O | H2O
product | 6-chloro-2-hydroxy-3-nitro-1-(4-thiomorpholinylsufonyl)benzene | 330 mg, 33% | ClC1=CC=C(C(=C1S(=O)(=O)N1CCSCC1)O)[N+](=O)[O-] | C10H11ClN2O5S2
